US04442115
A solution of 2-hydroxy-5-methyl-3-nitroacetophenone [4.0 g; Joshi et al., J. Amer. Chem. Soc., (1954), 76, 4993] in ethanol (150 ml) was hydrogenated at 25° C. and 3.5 kg/cm2 for 44 minutes using a catalyst of platinum on charcoal. The solution was filtered and the filtrate was evaporated at 30° C. under diminished pressure to give a dark red oil, which set to a semi-solid on standing overnight. This material was purified by chromatography on a column of silica gel using diethyl ether as eluant. The fastest running band (yellow) was collected to give 3-amino-2-hydroxy-5-methylacetophenone (2.3 g), m.p. 56°-58° C., in the form of a bright yellow solid.

reactant | 2-hydroxy-5-methyl-3-nitroacetophenone | 4.0 g | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | platinum on charcoal | [Pt] | Pt
product | 3-amino-2-hydroxy-5-methylacetophenone | 2.3 g | CC1=CC(=C(C(=C1)C(=O)C)O)N | C9H11NO2
